US09388189B2
2-((1S)-1-((5-(2-Fluoro-6-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
2-((1S)-1-((5-(2-Fluoro-6-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.07 mmol) was treated with boron tribromide (1M in dichloromethane, 680 μl, 0.68 mmol) and a solution of ammonia (7N in methanol, 1 mL, 7 mmol) according to the method described in Example 41 to give 12 mg (36% yield) of the title compound as a white solid. Purity 97%.

reactant | 2-((1S)-1-((5-(2-Fluoro-6-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 50 mg | FC1=C(C(=CC=C1)OC)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H38FN7O3Si
reactant | boron tribromide | 0.68 mmol, 1M, 680 μl | B(Br)(Br)Br | BBr3
reactant | ammonia | 7 mmol, 7N, 1 mL | N | H3N
product | 2-((1S)-1-((5-(2-Fluoro-6-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 12 mg, 36% yield | FC1=C(C(=CC=C1)O)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C27H22FN7O2
